US07498337B2
ethyl 5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate
To a solution (80 mL) of ethyl 2-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate (8.6 g) in ethanol was added 10% palladium carbon (50% containing water, 0.86 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 36 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethanol (70 mL), 10% palladium carbon (50% containing water, 0.90 g) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 60 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=10:1→5:1) to give the title compound as a brown solid (yield 1.37 g, 18%).

reactant | ethyl 2-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate | 80 mL, 8.6 g | ClC=1NC(=CC1C(=O)OCC)C1=C(C=CC=C1)F | C13H11ClFNO2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 0.86 g | [C].[Pd]
product | ethyl 5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate | yield 1.37 g, 18% | FC1=C(C=CC=C1)C1=CC(=CN1)C(=O)OCC | C13H12FNO2
